US07538241B2
Tetrahydrofuran (10 mL) solution of 2-(1,3-dioxolan-2-yl)furan (1.0 g, 7.1 mmol) was cooled to −78° C., and n-hexane solution of 1.6 mol/L n-butyllithium (4.5 mL, 7.2 mmol) was dropwise added thereto, and stirred for 3 hours. Tributyltin chloride (2.6 g, 7.9 mmol) was dropwise added to the reaction mixture, and stirred for 5 hours with heating up to room temperature. Water (10 mL) was added to the reaction mixture, and extracted with ethyl acetate (50 mL). The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was purified through silica gel column chromatography (n-hexane to ethyl acetate/n-hexane=1/20) to obtain tributyl[5-(1,3-dioxolan-2-yl)furan-2-yl]tin (2.3 g, 75%).

reactant | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 2-(1,3-dioxolan-2-yl)furan | 7.1 mmol, 1.0 g | O1C(OCC1)C=1OC=CC1 | C7H8O3
reactant | n-butyllithium | 7.2 mmol, 1.6 mol/L, 4.5 mL | C(CCC)[Li]
reactant | Tributyltin chloride | 7.9 mmol, 2.6 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | Water | 10 mL | O | H2O
solvent | n-hexane | CCCCCC | C6H14
product | tributyl[5-(1,3-dioxolan-2-yl)furan-2-yl]tin | 2.3 g, 75% | C(CCC)[Sn](C=1OC(=CC1)C1OCCO1)(CCCC)CCCC | InChI=1S/C7H7O3.3C4H9.Sn/c1-2-6(8-3-1)7-9-4-5-10-7;3*1-3-4-2;/h1-2,7H,4-5H2;3*1,3-4H2,2H3;
